US09056859B2
A solution of [2-bromo-4-(1H-tetrazol-1-yl)phenyl]acetic acid (500 mg, 1.77 mmol), Boc-piperazine (329 mg, 1.77 mmol), EDC (418 mg, 2.12 mmol), HOBt (286 mg, 2.12 mmol) and TEA (530 mg, 5.31 mmol) in 20 mL of DCM was stirred at room temperature overnight. The solvent was removed under reduce pressure and the crude was purified via prep-TLC to afford tert-butyl 4-{[2-bromo-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate.

reactant | [2-bromo-4-(1H-tetrazol-1-yl)phenyl]acetic acid | 1.77 mmol, 500 mg | BrC1=C(C=CC(=C1)N1N=NN=C1)CC(=O)O | C9H7BrN4O2
reactant | Boc-piperazine | 1.77 mmol, 329 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | EDC | 2.12 mmol, 418 mg
reactant | HOBt | 2.12 mmol, 286 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{[2-bromo-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate | BrC1=C(C=CC(=C1)N1N=NN=C1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23BrN6O3
